US06548493B1
4-((±)-cis-2-(2-chlorophenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indol-9(6aH)-yl)-1-(4-fluorophenyl)-1-butanone
(±)-Cis-2-(2-chlorophenyl)-4,5,6a,7,8,9,10,10a-octahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole (26.4 mg, 0.085 mmol) 0.7 ml of MEK. KI (14 mg, 0.085 mmol) and K2CO3 (22 mg, 0.26 mmol), and 4-chloro-4′-fluorobutyrophenone (22.2 mg, 0.11 mmol) were added. The suspension was refluxed for 48 h and then cooled to rt. The suspension was filtered and the residue was washed with CH2Cl2 (5 ml). The solution was concentrated in vacuo. The residue was purified by column chromatography (10% MeOH—CH2Cl2) to afford the title compound (18.8 mg, 47%) as a white amorphous solid. 1H NMR (CDCl3, 300 MHz) δ8.00-8.04 (m, 2 H), 7.41 (dd, 1H, J=1.5, 7.3 Hz), 7.30 (dd, 1H, J=1.8, 7.3 Hz), 7.10-7.20 (m, 4H), 7.01 (s, 1H), 6.96 (s, 1H), 3.68 (bt, 1H, J=6.6 Hz), 3.30-3.50 (m, 2H), 3.10-3.30 (m, 2H), 2.92-3.08 (m, 3H), 2.60-2.92 (m, 2H), 2.38-2.58 (m, 3H), 2.27 (t, 1H, J=11.3 Hz), 1.70-2.05 (m, 4H) ppm. MS (CI, NH3): 475 (base, M+H).

reactant | (±)-Cis-2-(2-chlorophenyl)-4,5,6a,7,8,9,10,10a-octahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole | 0.085 mmol, 0.7 ml, 26.4 mg | ClC1=C(C=CC=C1)C=1C=C2[C@@H]3[C@H](N4C2=C(C1)CC4)CCNC3 | C19H19ClN2
reactant | K2CO3 | 0.26 mmol, 22 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chloro-4′-fluorobutyrophenone | 0.11 mmol, 22.2 mg | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
solvent | MEK | CCC(=O)C | C4H8O
product | 4-((±)-cis-2-(2-chlorophenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indol-9(6aH)-yl)-1-(4-fluorophenyl)-1-butanone | 18.8 mg, 47% | ClC1=C(C=CC=C1)C=1C=C2[C@@H]3[C@H](N4C2=C(C1)CC4)CCN(C3)CCCC(=O)C3=CC=C(C=C3)F | C29H28ClFN2O
